### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Limits): weighted limits commute with limits

### PR DESCRIPTION
**Pull request by joelriou**
For a given weight, we show that it commutes with limits. As it had already been shown for the other variable, it follows that weighted limits commute with limits in both variables.

---

- [x] depends on: #41146

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Weighted/HasWeightedLimit.lean [hunk 1]
```diff
@@ -61,19 +61,19 @@ protected lemma w (c : WeightedCone W F) {i j : J} (x : W.obj i) (f : i ⟶ j) :
...
+      π x ≫ F.map f = π (W.map f x) := by cat_disch) :
+    WeightedCone W F where
   pt := pt
   π.app x := π x.snd
-  π.naturality x₁ x₂ f := by simpa using (hπ x₁.snd f.val).symm
+  π.naturality x₁ x₂ f := by simpa using! (hπ x₁.snd f.val).symm
 
 @[simp]
-lemma mk_π {j : J} (x : W.obj j) :
+lemma mk_π (hπ := by cat_disch) {j : J} (x : W.obj j) :
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Weighted/HasWeightedLimit.lean]: Can you please fill out the type of hπ here?

File: Mathlib/CategoryTheory/Limits/Weighted/PreservesLimit.lean [hunk 2]
```diff
@@ -103,24 +92,92 @@ lemma preservesLimit
...
+noncomputable def liftAux ⦃j : J⦄ (x : W.obj j) : s.pt ⟶ c.pt.obj j :=
+  (isLimitOfPreserves ((evaluation _ _).obj j) hc).lift (coneEval W s x)
+
+@[reassoc (attr := simp)]
+lemma liftAux_π_app_app ⦃j : J⦄ (x : W.obj j) (k) :
+    liftAux W hc s x ≫ (c.π.app k).app j =
+      s.π.app k ≫ W.weightedLimObjObjπ (G.obj k) x :=
+  (isLimitOfPreserves ((evaluation _ _).obj j) hc).fac (coneEval W s x) k
+
+@[no_expose]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Weighted/PreservesLimit.lean]:
```suggestion
```
This is in a (by default no-exposed) private section already, so we can remove this.

File: Mathlib/CategoryTheory/Limits/Weighted/PreservesLimit.lean [hunk 3]
```diff
@@ -16,8 +16,6 @@ public import Mathlib.CategoryTheory.Limits.Weighted.HasWeightedLimit
 
 -/
 
-@[expose] public section
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Weighted/PreservesLimit.lean:19]: Can you please also remove the `@[no_expose]` line 61?

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
